US05541286
(1) Preparation of 2-allylphenyl benzyl ether.
A solution of 6.71 (50 mmol) of 2-allylphenol in 50 ml of dimethylformamide was added dropwise to a stirred suspension of 2.20 g (55 mol) of a 60% dispersion of sodium hydride in mineral oil in 30 ml of dimethylformamide. The mixture was stirred at 25° C. for 1 hour and then a solution of 5.95 ml (50 mmol) of benzyl bromide in 20 ml of dimethylformamide was added dropwise. After the resulting mixture was stirred at 25° C. for 18 hours 500 ml of water was added and the mixture was extracted with ether. The ether extracts were washed with water and brine, dried (Na2SO4) and concentrated. Chromatography of the residue on a silica gel column, eluting with a 0 to 10% gradient of ethyl acetate in hexane afforded 9.68 g (86.4%) of the product as a colorless liquid.

reactant | 2-allylphenol | C(C=C)C1=C(C=CC=C1)O | C9H10O
reactant | sodium hydride | [H-].[Na+]
reactant | benzyl bromide | 50 mmol, 5.95 ml | C(C1=CC=CC=C1)Br | C7H7Br
reactant | water | 500 ml | O | H2O
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | 2-allylphenyl benzyl ether | 9.68 g, 86.4% | C(C1=CC=CC=C1)OC1=C(C=CC=C1)CC=C | C16H16O
